US06479536B1
2-(2,2,4,6,7-Pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-yl)isoindoline
A mixture of 2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine (1.00 g, 3.55 mmol), 1,2-bis(bromomethyl)benzene (1.03 g, 3.91 mmol), potassium carbonate (540 mg, 3.91 mmol), and N,N-dimethylformamide (20 ml) was stirred at room temperature for 1 hour. Water was added into the reaction mixture and the product was extracted twice with ethyl acetate. The combined organic layers were washed with water, dried on magnesium sulfate, filtered, and then concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel (hexane-ethyl acetate 10:1) to obtain 208 mg (15% yield) of the title compound. Melting point: 164-166° C. (Ethyl acetate-hexane).

reactant | 2,2,4,6,7-pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine | 3.55 mmol, 1.00 g | CC1(OC2=C(C1C1=CC=CC=C1)C(=C(C(=C2C)C)N)C)C | C19H23NO
reactant | 1,2-bis(bromomethyl)benzene | 3.91 mmol, 1.03 g | BrCC1=C(C=CC=C1)CBr | C8H8Br2
reactant | potassium carbonate | 3.91 mmol, 540 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 2-(2,2,4,6,7-Pentamethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-yl)isoindoline | 208 mg, 15% yield | CC1(OC2=C(C1C1=CC=CC=C1)C(=C(C(=C2C)C)N2CC1=CC=CC=C1C2)C)C | C27H29NO
